2167-10-29 07:36:00 Physician Resident Progress Note
TITLE:
   Chief Complaint: Altered Mental status
   24 Hour Events:
   Arrived in MICU
   History obtained from [**Hospital 15**] Medical records
   Patient unable to provide history: Encephalopathy, Unresponsive
   Allergies:
   Codeine
   Nausea/Vomiting
   Phenergan (Oral) (Promethazine Hcl)
   hallucinations;
   Tylenol (Oral) (Dm Hb/Pseudoephed/Acetamin/Cp)
   Unknown;
   Quinolones
   Unknown;
   Oxycodone
   Unknown;
   Enalapril
   Unknown;
   Last dose of Antibiotics:
   Infusions:
   Heparin Sodium - 650 units/hour
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2167-10-29**] 07:34 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.9
C (98.4
   Tcurrent: 36.9
C (98.4
   HR: 56 (52 - 68) bpm
   BP: 137/37(63) {120/24(50) - 151/42(106)} mmHg
   RR: 17 (11 - 19) insp/min
   SpO2: 93%
   Heart rhythm: SB (Sinus Bradycardia)
             Total In:
                                                                     80 mL
                                                                    120 mL
   PO:
             TF:
   IVF:
                                                                     80 mL
                                                                    120 mL
   Blood products:
   Total out:
                                                                    545 mL
                                                                    625 mL
   Urine:
                                                                    545 mL
                                                                    625 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -465 mL
                                                                   -505 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 93%
   ABG: ///16/
   Physical Examination
   General Appearance: Overweight / Obese
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL
   Cardiovascular: (PMI Normal), (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Diminished), (Left radial
   pulse: Diminished), (Right DP pulse: Absent), (Left DP pulse:
   Diminished)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Resonant : ),
   (Breath Sounds: Bronchial: )
   Abdominal: Soft, Bowel sounds present, Obese
   Extremities: Right lower extremity edema: Trace, Left lower extremity
   edema: Trace
   Skin:  Not assessed
   Neurologic: No(t) Attentive, No(t) Follows simple commands, Responds
   to: Unresponsive, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   186 K/uL
   8.2 g/dL
   122 mg/dL
   3.6 mg/dL
   16 mEq/L
   4.1 mEq/L
   103 mg/dL
   102 mEq/L
   135 mEq/L
   25.5 %
   10.9 K/uL
        [image002.jpg]
                             [**2167-10-29**]  01:27 AM
   WBC
   10.9
   Hct
   25.5
   Plt
   186
   Cr
   3.6
   TropT
   0.06
   Glucose
   122
   Other labs: PT / PTT / INR:21.6/59.4/2.0, CK / CKMB /
   Troponin-T:46//0.06, ALT / AST:[**11-7**], Alk Phos / T Bili:63/0.6,
   Albumin:3.4 g/dL, LDH:204 IU/L, Ca++:8.9 mg/dL, Mg++:2.6 mg/dL, PO4:4.5
   mg/dL
   Assessment and Plan
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 DIABETES MELLITUS (DM), TYPE II
 DECUBITUS ULCER (PRESENT AT ADMISSION)
 PERIPHERAL VASCULAR DISEASE (PVD) WITH CRITICAL LIMB ISCHEMIA
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 CORONARY ARTERY DISEASE (CAD, ISCHEMIC HEART DISEASE)
   ASSESSMENT AND PLAN: 66 year old woman with multiple co-morbidities,
   including chronic kidney disease s/p deceased donor renal transplant
   ([**2160**]) currently on immunosuppression, coronary artery disease s/p
   myocardial infarction/stents, paroxysmal atrial fibrillation,
   insulin-dependent diabetes and diastolic congestive heart failure
   transferred to [**Hospital1 19**] from OSH for management of acutely worsening renal
   failure and decompensated diastolic congestive heart failure
   .
   # Altered mental status: Likely related to worsening uremia as it is
   temporally related. No signs of infection. No focal neurologic signs
   but has been supratherapeutic in heparin. Not hypercarbic.  Other
   considerations are PRES, encephalitis, TTT/HUS although all less likely
   -Renal planning HD, temp line by IR
   -CT Head negative prelim for any acute process
   -LFTs not elevated
   -If not improved after HD, plan for EEG and MRI
   .
   # Hypoxia: Likely from volume overload from renal failure. Unresponsive
   to lasix.
    -HD today
   .-Check EBV, CMV, BK
   # Acute right foot ischemia: Stable but cool with minimal pulses in
   LLE. Unable to complete procedure today.
   -Con't Heparin gtt
   -Vascular to re-eval post HD
   .
   #. Acute on chronic renal failure: Etiology unclear. Urine lytes
   suggestive of pre-renal etiology. BUN/Creatinine and potassium levels
   concerning for worsening renal function. Renal ultrasound with dopplers
   was normal at OSH.
   - Likely renal biopsy at some point
   - Will hold on intravenous fluid rehydration for now, given CHF
   -Con
t Tacro based on levels (dosing SQ) and change cellcept to IV
   .
   #. Decompensated systolic/diastolic congestive heart failure: BNP
   12,000+ at OSH and patient appears to be in CHF on exam. Will hold on
   Lasix given poor output to it and worsening renal function
   -HD in am
   .
   #. Recent myocardial infarcation w/ stent placement: Stable. Will
   continue ASA 81 and Plavix given recent stent placement.  [**Month (only) 51**] need NGT
   for placement if MS doesn't clear
   .
   #. Lower extremity ulcers: Stable
   - Wound care consult
   .
   #. Paroxysmal atrial fibrillation: Currently in sinus rhythm. Continue
   rate control. Holding on home coumadin and heparin gtt started at OSH
   for likely renal biopsy sometime
   .
   #. Insulin-dependent diabetes mellitus: Stable, continue home insulin
   sliding scale.
   - Will continue gabapentin for now for significant peripheral
   neuropathy
   .
   # Hypothyroidism: Stable. Continue home Levothyroxine replacement
   .
   #. Hypercholesterolemia/hypertension/peripheral vascular disease:
   Stable, continue home Coreg, Hydralazine, Imdur ER, Zocor (Vytorin)
   .
   #. Gout: Stable, no acute flare currently. Will hold Colchicine for now
   given decreased renal function.
   .
   #. GERD: Stable. Continue home pantoprazole for now.
   .
   FEN: Regular, cardiac/heart healthy, diabetic; replete lytes PRN
   .
   PPX:
   -DVT ppx with heparin gtt
   -Bowel regimen Senna/Colace and lactulose
   -Pain management with PRN morphine
   .
   ACCESS: PIV's
   .
   CODE STATUS: Full
   .
   EMERGENCY CONTACT: [**Name (NI) 186**]
   .
   DISPOSITION: ICU for now
   .
   ICU Care
   Nutrition:
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   20 Gauge - [**2167-10-28**] 07:02 PM
   Prophylaxis:
   DVT: (Systemic anticoagulation: Heparin gtt)
   Stress ulcer:
   VAP:
   Comments:
   Communication: Family meeting held , ICU consent signed Comments:
   Code status: Full code
   Disposition:

2167-10-29 09:23:00 Physician Attending Progress Note
HPI:
   66yoF with h/o ESRD and renal transplant, transferred her from OSH on
   [**10-27**] with concern for rejection.  Over hospital course has had
   increasing lethargy, somnolence, and disorientation.  Went for
   angiogram because of concern for LE ischemia; however, during procedure
   she had increased somnolence and because of concern for mental status
   she was transferred to ICU for monitoring.  Unable to complete the
   angiography because of patient
s status.
   24 Hour Events:
   Admitted overnight for confusion thought secondary to uremic
   encephalopathy.  No significant change in mental status overnight and
   she remained stable with close monitoring.  Plans to get dialysis
   today.
   Allergies:
   Codeine Nausea/Vomiting
   Phenergan (Oral) (Promethazine Hcl)
   hallucinations;
   Tylenol (Oral) (Dm Hb/Pseudoephed/Acetamin/Cp) Unknown;
   Quinolones Unknown;
   Oxycodone Unknown;
   Enalapril Unknown;
   Infusions:
   Heparin Sodium - 650 units/hour
   Other medications:
   NAC x 4 doses
   Lactulose
   Coreg
   Colace
   Tacrolimus
   Protonix
   Cellcept
   Synthroid
   Hydralazine
   Iron
   ASA
   Plavix
   Prednisone 5mg
   Changes to medical and family history:
   None
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2167-10-29**] 08:50 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.9
C (98.4
   Tcurrent: 36.9
C (98.4
   HR: 56 (52 - 68) bpm
   BP: 137/37(63) {120/24(50) - 151/42(106)} mmHg
   RR: 17 (11 - 19) insp/min
   SpO2: 93%
   Heart rhythm: SB (Sinus Bradycardia)
             Total In:
                                                                     80 mL
                                                                    145 mL
   PO:
             TF:
   IVF:
                                                                     80 mL
                                                                    145 mL
   Blood products:
   Total out:
                                                                    545 mL
                                                                    625 mL
   Urine:
                                                                    545 mL
                                                                    625 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -465 mL
                                                                   -480 mL
   Respiratory support
   O2 Delivery Device:4L  Nasal cannula
   SpO2: 93%
   Physical Examination
   Gen: somnolent, awakens to voice
   Chest: Clear anterior fields
   CV: RRR no murmur
   Abd: s/nt/nd
   Ext: minimal edema; Cool left foot, dopplerable pulses, good cap
   refill.
   Labs / Radiology
   8.2 g/dL
   186 K/uL
   122 mg/dL
   3.6 mg/dL
   16 mEq/L
   4.1 mEq/L
   103 mg/dL
   102 mEq/L
   135 mEq/L
   25.5 %
   10.9 K/uL
        [image002.jpg]
                             [**2167-10-29**]  01:27 AM
   WBC
   10.9
   Hct
   25.5
   Plt
   186
   Cr
   3.6
   TropT
   0.06
   Glucose
   122
   Other labs: PT / PTT / INR:21.6/59.4/2.0, CK / CKMB /
   Troponin-T:46//0.06, ALT / AST:[**11-7**], Alk Phos / T Bili:63/0.6,
   Albumin:3.4 g/dL, LDH:204 IU/L, Ca++:8.9 mg/dL, Mg++:2.6 mg/dL, PO4:4.5
   mg/dL
   Tacrolevel: 5.1 on admit; repeat pending
   CXR: Elevated right hemidiaphragm, mild pulmonary congestion
   TTE: RVSP 62; LVEF 45-50%; grossly normal function
   Assessment and Plan
   66F with history of renal failure and transplant; admitted to floor
   with renal failure and transferred to ICU for worsening mental status.
   1.  Neuro
 persistent altered mental status, suspected secondary to
   uremia.  Head CT negative, PaCO2 normal.  Other considerations include
   occult infection, PRESS in setting of tacrolimus, tacro toxicity
   (normal level).
    - Will follow now, evaluate for occult infection with blood
   culture/UA/urine culture.
   -  Check CMV/EBV/BK virus
   - If unimproved after initiation of HD, would proceed with MRI,
   possible EEG, and consider more aggressive infectious evaluation.
   2. Ischemic R foot: s/p attempted angio aborted.
   - continue heparin drip.
   - will discuss with vascular if evidence of worsening ischemia; stable
   to improving for now.
   - h/o PVD; will consider hypercoag evaluation following acute event.
   3.  Renal:  Unclear etiology of acute on chronic renal failure.  Cr
   drifting down.
   - NAC for prophylaxis.
   - Dialysis catheter today, plan for HD.
   - f/u Tacro level
   ICU Care
   Nutrition: NPO because of mental status.  Place NGT today if no
   improvement.
   Glycemic Control:  Insulin sliding scale
   Lines:  20 Gauge - [**2167-10-28**] 07:02 PM
   Prophylaxis:
   DVT: heparin drip
   Stress ulcer: PPI
   VAP: Not intubated
   Communication:  Will update family today
   Code status:  Full code
   Disposition : Remains in ICU for monitoring of mental status
   Total time spent:  35minutes CCT

2167-10-30 07:36:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 BLOOD CULTURED - At [**2167-10-30**] 03:24 AM
   HD line placed, got HD x1.  Mental status not significantly improved.
   Tacro now SL.  Could not get NG tube.  Intermittantly dropped sats with
   turning, requiring NRB-60% FM.  T 100.6-> cultured; CXR.
   Allergies:
   Codeine
   Nausea/Vomiting
   Phenergan (Oral) (Promethazine Hcl)
   hallucinations;
   Tylenol (Oral) (Dm Hb/Pseudoephed/Acetamin/Cp)
   Unknown;
   Quinolones
   Unknown;
   Oxycodone
   Unknown;
   Enalapril
   Unknown;
   Last dose of Antibiotics:
   Infusions:
   Heparin Sodium - 500 units/hour
   Other ICU medications:
   Morphine Sulfate - [**2167-10-29**] 08:31 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2167-10-30**] 07:23 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.1
C (100.6
   Tcurrent: 37.6
C (99.6
   HR: 70 (56 - 95) bpm
   BP: 143/36(64) {49/16(22) - 156/50(71)} mmHg
   RR: 21 (16 - 26) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 63 Inch
             Total In:
                                                                    372 mL
                                                                    109 mL
   PO:
             TF:
   IVF:
                                                                    372 mL
                                                                    109 mL
   Blood products:
   Total out:
                                                                  1,500 mL
                                                                    140 mL
   Urine:
                                                                  1,500 mL
                                                                    140 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,128 mL
                                                                    -31 mL
   Respiratory support
   O2 Delivery Device: Venti mask
   SpO2: 98%
   ABG: 7.42/32/58/20/-2
   PaO2 / FiO2: 145
   Physical Examination
   General Appearance: Overweight / Obese
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL
   Cardiovascular: (PMI Normal), (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Diminished), (Left radial
   pulse: Diminished), (Right DP pulse: Absent), (Left DP pulse:
   Diminished)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Resonant : ),
   (Breath Sounds: Bronchial: )
   Abdominal: Soft, Bowel sounds present, Obese
   Extremities: Right lower extremity edema: Trace, Left lower extremity
   edema: Trace
   Skin:  Not assessed
   Neurologic: No(t) Attentive, No(t) Follows simple commands, Responds
   to: Unresponsive, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   171 K/uL
   7.8 g/dL
   160 mg/dL
   2.2 mg/dL
   20 mEq/L
   3.7 mEq/L
   63 mg/dL
   105 mEq/L
   143 mEq/L
   24.1 %
   12.0 K/uL
        [image002.jpg]
                             [**2167-10-29**]  01:27 AM
                             [**2167-10-29**]  06:30 PM
                             [**2167-10-30**]  02:44 AM
                             [**2167-10-30**]  05:54 AM
   WBC
   10.9
   12.0
   Hct
   25.5
   24.4
   24.1
   Plt
   186
   171
   Cr
   3.6
   2.2
   TropT
   0.06
   TCO2
   21
   Glucose
   122
   160
   Other labs: PT / PTT / INR:21.3/63.6/2.0, CK / CKMB /
   Troponin-T:46//0.06, ALT / AST:[**11-7**], Alk Phos / T Bili:63/0.6, Lactic
   Acid:1.5 mmol/L, Albumin:3.4 g/dL, LDH:204 IU/L, Ca++:8.3 mg/dL,
   Mg++:2.3 mg/dL, PO4:3.0 mg/dL
   Assessment and Plan
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 DIABETES MELLITUS (DM), TYPE II
 DECUBITUS ULCER (PRESENT AT ADMISSION)
 PERIPHERAL VASCULAR DISEASE (PVD) WITH CRITICAL LIMB ISCHEMIA
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 CORONARY ARTERY DISEASE (CAD, ISCHEMIC HEART DISEASE)
   ASSESSMENT AND PLAN: 66 year old woman with multiple co-morbidities,
   including chronic kidney disease s/p deceased donor renal transplant
   ([**2160**]) currently on immunosuppression, coronary artery disease s/p
   myocardial infarction/stents, paroxysmal atrial fibrillation,
   insulin-dependent diabetes and diastolic congestive heart failure
   transferred to [**Hospital1 19**] from OSH for management of acutely worsening renal
   failure and decompensated diastolic congestive heart failure
   .
   # Hypoxia: CXR unrevealing. Likely from volume overload from renal
   failure. PE unlikely as patient admitted with therapeutic coumadin and
   has been on heparin gtt.
   - HD today
   - trend cardiac enzymes
   - consider CT chest without contrast
   - hypercoag w/u with APLAb
   # Altered mental status: Likely related to worsening uremia as it is
   temporally related. No signs of infection. No focal neurologic signs
   but has been supratherapeutic in heparin. Not hypercarbic.  Other
   considerations are PRES, encephalitis, TTT/HUS although all less
   likely.  CT Head negative for any acute process.  LFTs not elevated.
   -HD today
   - check  diff
   - LP today to r/o meningitis
   - MRI brain if LP unrevealing
   - empiric meningitis coverage with acyclovir, and vanc/ceft/amp
   - hold narcotics
   # Acute right foot ischemia: Stable but cool with minimal pulses in
   LLE. Unable to complete procedure today.
   -Con't Heparin gtt
   -Vascular to re-eval post HD
   .
   #. Acute on chronic renal failure: Etiology unclear. Urine lytes
   suggestive of pre-renal etiology. BUN/Creatinine and potassium levels
   concerning for worsening renal function. Renal ultrasound with dopplers
   was normal at OSH.
   - Likely renal biopsy at some point
   - Con
t Tacro based on levels (dosing SL) and cellcept IV
   .-Check EBV, CMV, BK
   .
   #. Decompensated systolic/diastolic congestive heart failure: BNP
   12,000+ at OSH and patient appears to be in CHF on exam. Will hold on
   Lasix given poor output to it and worsening renal function
   -HD in am
   .
   #. Recent myocardial infarcation w/ stent placement: Stable. Will
   continue ASA 81 and Plavix given recent stent placement (DES in [**Month (only) **]).
   - will reattempt NG tube as patient needs plavix.
   .
   #. Lower extremity ulcers: Stable
   - Wound care consult
   .
   #. Paroxysmal atrial fibrillation: Currently in sinus rhythm. Continue
   rate control. Holding on home coumadin and heparin gtt started at OSH
   for likely renal biopsy sometime
   .
   #. Insulin-dependent diabetes mellitus: Stable, continue home insulin
   sliding scale.
   - Will continue gabapentin for now for significant peripheral
   neuropathy
   .
   # Hypothyroidism: Stable. Continue home Levothyroxine replacement
   .
   #. Hypercholesterolemia/hypertension/peripheral vascular disease:
   Stable, continue home Coreg, Hydralazine, Imdur ER, Zocor (Vytorin)
   .
   #. Gout: Stable, no acute flare currently. Will hold Colchicine for now
   given decreased renal function.
   .
   #. GERD: Stable. Continue home pantoprazole for now.
   .
   FEN: NPO, no IVF
   PPX:
   -DVT ppx with heparin gtt
   -Bowel regimen Senna/Colace and lactulose
   ACCESS:
   18 Gauge - [**2167-10-29**] 06:10 PM
   20 Gauge - [**2167-10-29**] 06:11 PM
   HD line
   .
   CODE STATUS: Full
   EMERGENCY CONTACT: [**Name (NI) 186**]
   DISPOSITION: ICU for now

2167-10-30 09:51:00 Physician Attending Progress Note
HPI:
    66yoF with h/o renal transplant, transferred to ICU for worsening
   encephalopathy of unclear etiology.
   24 Hour Events:
   HD line placed yesterday, had dialysis for ultrafiltration.
   She had desaturation with rolling overnight and required NRB now weaned
   back to 4L NC.
   Febrile overnight and cultures obtained.
   Allergies:
   Codeine
   Nausea/Vomiting
   Phenergan (Oral) (Promethazine Hcl)
   hallucinations;
   Tylenol (Oral) (Dm Hb/Pseudoephed/Acetamin/Cp)
   Unknown;
   Quinolones
   Unknown;
   Oxycodone
   Unknown;
   Enalapril
   Unknown;
   Infusions:
   Heparin Sodium - 500 units/hour
   ICU medications:
   Lactulose
   Coreg
   Colace
   Simvastatin
   Synthroid
   Hydralazine
   Fe
   Insulin sliding scale
   ASA
   Plavix
   Cellcept
   Tacrolimus
   Changes to medical and family history:
   None
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2167-10-30**] 09:16 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.1
C (100.6
   Tcurrent: 37.3
C (99.2
   HR: 67 (56 - 95) bpm
   BP: 144/36(64) {128/27(55) - 156/50(71)} mmHg
   RR: 28 (16 - 28) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 63 Inch
             Total In:
                                                                    372 mL
                                                                    139 mL
   PO:
             TF:
   IVF:
                                                                    372 mL
                                                                    139 mL
   Blood products:
   Total out:
                                                                  1,500 mL
                                                                    215 mL
   Urine:
                                                                  1,500 mL
                                                                    215 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,128 mL
                                                                    -76 mL
   Respiratory support
   O2 Delivery Device: 4L NC
   SpO2: 98%
   ABG: 7.42/32/58/20/-2
   PaO2 / FiO2: 145
   Physical Examination
   Gen: Encephalopathic, does not open eyes or follow commands
   Chest: Clear anterior; slight crackles at the right base
   CV: RRR
   Abd: s/nt/nd
   Ext: minimal edema
   Labs / Radiology
   7.8 g/dL
   171 K/uL
   160 mg/dL
   2.2 mg/dL
   20 mEq/L
   3.7 mEq/L
   63 mg/dL
   105 mEq/L
   143 mEq/L
   24.1 %
   12.0 K/uL
        [image002.jpg]
                             [**2167-10-29**]  01:27 AM
                             [**2167-10-29**]  06:30 PM
                             [**2167-10-30**]  02:44 AM
                             [**2167-10-30**]  05:54 AM
   WBC
   10.9
   12.0
   Hct
   25.5
   24.4
   24.1
   Plt
   186
   171
   Cr
   3.6
   2.2
   TropT
   0.06
   TCO2
   21
   Glucose
   122
   160
   Other labs: PT / PTT / INR:21.3/63.6/2.0, CK / CKMB /
   Troponin-T:46//0.06, ALT / AST:[**11-7**], Alk Phos / T Bili:63/0.6, Lactic
   Acid:1.5 mmol/L, Albumin:3.4 g/dL, LDH:204 IU/L, Ca++:8.3 mg/dL,
   Mg++:2.3 mg/dL, PO4:3.0 mg/dL
   Micro: Blood cultures: pending
   UA: Trace Leu; few bacteria
   CXR: Elevated right hemi-diaphragm, perihilar fullness; no focal
   consolidation.
   Assessment and Plan
   66yoF with h/o renal transplant; admitted with worsening renal failure
   and transferred to ICU for worsening encephalopathy.
   1.       Hypoxemia:  Transient worsening hypoxemia overnight in setting
   of being supine and rolling.  CXR indicative of only mild volume
   overload.  Other possibilities include an aspiration event (slight
   crackles at the right base), unlikely to be pulmonary embolism in
   setting of therapeutic INR and transient worsening of hypxoxemia.
   -Dialysis today
   - Will consider chest CT if unimproved
   2.       Encephalopathy:  currently unclear etiology; possible
   component of uremic encephalopathy.  Now with new fevers and persistent
   AMS.
   - LP
   - MRI (w/o gadolinium)
   - d/c narcotics; trial of narcan
   3.       Infection:
   - Initiate antibiotics while awaiting LP:
   vancomycin/ceftriaxone/ampicillin/acyclovir
   - Check differential
   - f/u cultures
   - EBV/CMV/BK virus
   - Send fungal studies: B-glucan/galactomannan
   4.  Vascular:  cool right lower extremity
   - hold heparin for possible LP
   - Send hypercoaguability evaluation
   5.  CV:
   - needs enteral access for ASA/Plavix
   ICU Care
   Nutrition: Needs NGT
   Glycemic Control:  Insulin sliding scale; goal < 150
   Lines:
   18 Gauge - [**2167-10-29**] 06:10 PM
   20 Gauge - [**2167-10-29**] 06:11 PM
   HD line
   Prophylaxis:
   DVT: Heparin drip
   Stress ulcer:  PPI
   VAP: Not intubated
   Communication:  Will update husband
   [**Name (NI) 36**] status: Full Code
   Disposition : Remains in ICU, critically ill
   Total time spent:  35minutes

2167-10-31 07:20:00 Physician Resident Progress Note
TITLE:
   Chief Complaint: Altered mental status
   24 Hour Events:
 LUMBAR PUNCTURE - At [**2167-10-30**] 05:09 PM
 MAGNETIC RESONANCE IMAGING - At [**2167-10-31**] 02:14 AM
 EKG - At [**2167-10-31**] 03:00 AM
 FEVER - 101.3
F - [**2167-10-30**] 04:00 PM
   Spiked temp so was started on Abx for possible meningitis/encephalitis
   given AMS. Got LP which had 1 WBC.
   Got head MRI which is prelim negative-but with some motion artifact.
   NGT placed she got her plavix
   Got trial of Narcan w/o significant effect
   Sent hypercoaguable w/u
   History obtained from [**Hospital 15**] Medical records
   Patient unable to provide history: Unresponsive
   Allergies:
   Codeine
   Nausea/Vomiting
   Phenergan (Oral) (Promethazine Hcl)
   hallucinations;
   Tylenol (Oral) (Dm Hb/Pseudoephed/Acetamin/Cp)
   Unknown;
   Quinolones
   Unknown;
   Oxycodone
   Unknown;
   Enalapril
   Unknown;
   Last dose of Antibiotics:
   Ampicillin - [**2167-10-30**] 02:09 PM
   Vancomycin - [**2167-10-30**] 02:10 PM
   Ceftriaxone - [**2167-10-30**] 05:10 PM
   Acyclovir - [**2167-10-30**] 05:11 PM
   Piperacillin/Tazobactam (Zosyn) - [**2167-10-31**] 06:46 AM
   Infusions:
   Heparin Sodium - 650 units/hour
   Other ICU medications:
   Lorazepam (Ativan) - [**2167-10-31**] 02:30 AM
   Heparin Sodium - [**2167-10-31**] 06:30 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2167-10-31**] 07:19 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.5
C (101.3
   Tcurrent: 37.2
C (99
   HR: 69 (67 - 105) bpm
   BP: 130/40(63) {130/18(52) - 172/43(71)} mmHg
   RR: 20 (20 - 32) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 63 Inch
             Total In:
                                                                  1,325 mL
                                                                    426 mL
   PO:
             TF:
   IVF:
                                                                  1,055 mL
                                                                    306 mL
   Blood products:
                                                                    270 mL
   Total out:
                                                                    513 mL
                                                                    240 mL
   Urine:
                                                                    513 mL
                                                                    240 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    812 mL
                                                                    186 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 97%
   ABG: 7.48/38/238/27/5
   Physical Examination
   General Appearance: Overweight / Obese
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, NG tube
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Diminished), (Left radial
   pulse: Diminished), (Right DP pulse: Absent), (Left DP pulse:
   Diminished)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Resonant : ),
   (Breath Sounds: Bronchial: )
   Abdominal: Soft, Bowel sounds present
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent
   Skin:  Not assessed
   Neurologic: Responds to: Unresponsive, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   142 K/uL
   8.1 g/dL
   206 mg/dL
   2.0 mg/dL
   27 mEq/L
   3.3 mEq/L
   42 mg/dL
   103 mEq/L
   143 mEq/L
   25.9 %
   15.6 K/uL
        [image002.jpg]
                             [**2167-10-29**]  01:27 AM
                             [**2167-10-29**]  06:30 PM
                             [**2167-10-30**]  02:44 AM
                             [**2167-10-30**]  05:54 AM
                             [**2167-10-30**]  02:50 PM
                             [**2167-10-31**]  03:12 AM
                             [**2167-10-31**]  03:35 AM
   WBC
   10.9
   12.0
   16.0
   15.6
   Hct
   25.5
   24.4
   24.1
   24.8
   25.9
   Plt
   186
   171
   166
   142
   Cr
   3.6
   2.2
   2.0
   TropT
   0.06
   0.17
   TCO2
   21
   29
   Glucose
   122
   160
   206
   Other labs: PT / PTT / INR:20.7/51.5/1.9, CK / CKMB /
   Troponin-T:64/6/0.17, ALT / AST:[**10-10**], Alk Phos / T Bili:71/2.3,
   Differential-Neuts:92.5 %, Band:0.0 %, Lymph:2.9 %, Mono:4.4 %, Eos:0.1
   %, Lactic Acid:1.4 mmol/L, Albumin:3.4 g/dL, LDH:204 IU/L, Ca++:8.5
   mg/dL, Mg++:2.0 mg/dL, PO4:2.9 mg/dL
   Imaging: MRI Wet read:
   Very limited study as the patient was unable to remain still (despite
   tech
   report of RN administration of Ativan during the study). Within that
   constration, there is no evidence of diffusion abnormality, mass, edema
   or
   other etiology to complaint of altered mental status
   CXR [**10-30**]:
   In comparison with study of [**10-28**], there is further engorgement of
   the pulmonary vessels consistent with elevated pulmonary venous
   pressure.
   Cardiac silhouette again remains mildly enlarged. Central catheter tip
   extends to the cavoatrial junction or possibly to the upper portion of
   the
   right atrium itself.
   Microbiology: CRYPTOCOCCAL ANTIGEN (Final [**2167-10-30**]):
         CRYPTOCOCCAL ANTIGEN NOT DETECTED.
   [**2167-10-30**] 4:44 pm CSF;SPINAL FLUID      Source: LP #3.
      GRAM STAIN (Final [**2167-10-30**]):
         NO POLYMORPHONUCLEAR LEUKOCYTES SEEN.
         NO MICROORGANISMS SEEN.
   CX Pending
   CSF CMV, EBV, HSV PCRs pending
   Bld cx 12/3/4 pending
   BK Virus PCR pending
   Assessment and Plan
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**])
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 DIABETES MELLITUS (DM), TYPE II
 DECUBITUS ULCER (PRESENT AT ADMISSION)
 PERIPHERAL VASCULAR DISEASE (PVD) WITH CRITICAL LIMB ISCHEMIA
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 CORONARY ARTERY DISEASE (CAD, ISCHEMIC HEART DISEASE)
   ASSESSMENT AND PLAN: 66 year old woman with multiple co-morbidities,
   including chronic kidney disease s/p deceased donor renal transplant
   ([**2160**]) currently on immunosuppression, coronary artery disease s/p
   myocardial infarction/stents, paroxysmal atrial fibrillation,
   insulin-dependent diabetes and diastolic congestive heart failure
   transferred to [**Hospital1 19**] from OSH for management of acutely worsening renal
   failure and decompensated diastolic congestive heart failure
   .
   # Hypoxia: CXR unrevealing. Less likely from volume overload from renal
   failure as has not improved with volume removal. PE less likely as
   patient admitted with therapeutic coumadin and has been on heparin gtt
   but possible with increase RV pressures. Also possible PFO with with
   shunt
   - HD today again today
   - Consider TTE with bubble study
   - consider CT chest without contrast
   - hypercoag w/u with APLAb
   # Altered mental status: Likely related to worsening uremia as it is
   temporally related. No signs of infection. No focal neurologic signs
   but has been supratherapeutic in heparin. Not hypercarbic.  Other
   considerations are PRES, encephalitis, TTT/HUS although all less
   likely.  CT Head negative for any acute process.  LFTs not elevated. LP
   and MRI unrevealing. TSH normal enought
   -HD today
   - Can d/c CTX but keep acyclovir for now
   -F/u LP studies and final read of MRI
   -Consider EEG
   - empiric HSV encephalitis coverage with acyclovir
   -Check Flu swab to check for atypical flu
   - hold narcotics
   # Acute right foot ischemia: Stable but cool with minimal pulses in
   LLE. Unable to complete procedure today.
   -Con't Heparin gtt
   -Vascular to re-eval post HD
   .
   #. Acute on chronic renal failure: Etiology unclear. Urine lytes
   suggestive of pre-renal etiology. BUN/Creatinine and potassium levels
   concerning for worsening renal function. Renal ultrasound with dopplers
   was normal at OSH.
   - Likely renal biopsy at some point
   - Con
t Tacro based on levels (dosing SL) and cellcept IV
   .-Check EBV, CMV, BK
   .
   #. Decompensated systolic/diastolic congestive heart failure: BNP
   12,000+ at OSH and patient appears to be in CHF on exam. Will hold on
   Lasix given poor output to it and worsening renal function
   -HD in am
   .
   #. Recent myocardial infarcation w/ stent placement: Stable. Will
   continue ASA 81 and Plavix given recent stent placement (DES in [**Month (only) **]).
   - Con't ASA and Plavix via NGT
   .
   #. Lower extremity ulcers: Stable
   - Wound care consult
   .
   #. Paroxysmal atrial fibrillation: Currently in sinus rhythm. Continue
   rate control. Holding on home coumadin and heparin gtt started at OSH
   for likely renal biopsy sometime
   .
   #. Insulin-dependent diabetes mellitus: Stable, continue home insulin
   sliding scale.
   - Will continue gabapentin for now for significant peripheral
   neuropathy
   .
   # Hypothyroidism: Stable. Continue home Levothyroxine replacement
   .
   #. Hypercholesterolemia/hypertension/peripheral vascular disease:
   Stable, continue home Coreg, Hydralazine, Imdur ER, Zocor (Vytorin)
   .
   #. Gout: Stable, no acute flare currently. Will hold Colchicine for now
   given decreased renal function.
   .
   #. GERD: Stable. Continue home pantoprazole for now.
   .
   FEN: NPO, no IVF
   PPX:
   -DVT ppx with heparin gtt
   -Bowel regimen Senna/Colace and lactulose
   ACCESS:
   18 Gauge - [**2167-10-29**] 06:10 PM
   20 Gauge - [**2167-10-29**] 06:11 PM
   HD line
   .
   CODE STATUS: Full
   EMERGENCY CONTACT: [**Name (NI) 186**]
   DISPOSITION: ICU for now
   ICU Care
   Nutrition:
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Dialysis Catheter - [**2167-10-29**] 12:00 PM
   18 Gauge - [**2167-10-29**] 06:10 PM
   20 Gauge - [**2167-10-29**] 06:11 PM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: Heparin gtt)
   Stress ulcer:
   VAP: HOB elevation
   Comments:
   Communication: ICU consent signed Comments:
   Code status: Full code
   Disposition:

2167-10-31 09:05:00 Physician Attending Progress Note
HPI:
    66F with h/o renal transplant; here with encephalopthy and renal
   failure.
   24 Hour Events:
   LP yesterday without evidence of meningitis.  MRI yesterday with final
   read still pending.
   Continues to be febrile.  Increased oxygen requirement following MRI
   while in supine position.
   Allergies:
   Codeine
   Nausea/Vomiting
   Phenergan (Oral) (Promethazine Hcl)
   hallucinations;
   Tylenol (Oral) (Dm Hb/Pseudoephed/Acetamin/Cp)
   Unknown;
   Quinolones
   Unknown;
   Oxycodone
   Unknown;
   Enalapril
   Unknown;
   Last dose of Antibiotics:
   Ampicillin - [**2167-10-30**] 02:09 PM
   Vancomycin - [**2167-10-30**] 02:10 PM
   Ceftriaxone - [**2167-10-30**] 05:10 PM
   Acyclovir - [**2167-10-30**] 05:11 PM
   Piperacillin/Tazobactam (Zosyn) - [**2167-10-31**] 06:46 AM
   Infusions:
   Heparin Sodium - 650 units/hour
   Other ICU medications:
   Lorazepam (Ativan) - [**2167-10-31**] 02:30 AM
   Heparin Sodium - [**2167-10-31**] 06:30 AM
   Insulin sliding scale
   Lactulose
   Epogen
   Coreg
   Colace
   Zetia
   Simvastatin
   Prednisone 5mg daily
   Protonix
   Hydralazine
   Fe Sulfate
   Calcium Acetate
   ASA 81mg daily
   Plavix
   Clotrimazole
   MMF
   Tacrolimus
   Changes to medical and family history:
   None
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   None
   Flowsheet Data as of  [**2167-10-31**] 08:44 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.5
C (101.3
   Tcurrent: 38.5
C (101.3
   HR: 73 (67 - 105) bpm
   BP: 157/35(66) {130/18(52) - 172/43(71)} mmHg
   RR: 27 (20 - 32) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 63 Inch
             Total In:
                                                                  1,325 mL
                                                                    454 mL
   PO:
             TF:
   IVF:
                                                                  1,055 mL
                                                                    334 mL
   Blood products:
                                                                    270 mL
   Total out:
                                                                    513 mL
                                                                    240 mL
   Urine:
                                                                    513 mL
                                                                    240 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    812 mL
                                                                    214 mL
   Respiratory support
   O2 Delivery Device: FM 50%
   SpO2: 96%
   ABG: 7.48/38/238
   Physical Examination
   Gen: Somnolent but awakens to voice
   Chest: crackles at right base with bronchial breath sounds
   CV: RRR
   Abd: s/nt/nd
   Ext: Minimal edema
   Labs / Radiology
   8.1 g/dL
   142 K/uL
   206 mg/dL
   2.0 mg/dL
   27 mEq/L
   3.3 mEq/L
   42 mg/dL
   103 mEq/L
   143 mEq/L
   25.9 %
   15.6 K/uL
        [image002.jpg]
                             [**2167-10-29**]  01:27 AM
                             [**2167-10-29**]  06:30 PM
                             [**2167-10-30**]  02:44 AM
                             [**2167-10-30**]  05:54 AM
                             [**2167-10-30**]  02:50 PM
                             [**2167-10-31**]  03:12 AM
                             [**2167-10-31**]  03:35 AM
   WBC
   10.9
   12.0
   16.0
   15.6
   Hct
   25.5
   24.4
   24.1
   24.8
   25.9
   Plt
   186
   171
   166
   142
   Cr
   3.6
   2.2
   2.0
   TropT
   0.06
   0.17
   TCO2
   21
   29
   Glucose
   122
   160
   206
   Other labs: PT / PTT / INR:20.7/51.5/1.9, CK / CKMB /
   Troponin-T:64/6/0.17, ALT / AST:[**10-10**], Alk Phos / T Bili:71/2.3,
   Differential-Neuts:92.5 %, Band:0.0 %, Lymph:2.9 %, Mono:4.4 %, Eos:0.1
   %, Lactic Acid:1.4 mmol/L, Albumin:3.4 g/dL, LDH:204 IU/L, Ca++:8.5
   mg/dL, Mg++:2.0 mg/dL, PO4:2.9 mg/dL
   CXR: engorgement of vessels, pulmonary edema; increased opacity in RLL
   Micro: CSF negative
   EBV/CMV pending
   BK virus pending
   Assessment and Plan
   66yoF with h/o renal transplant; presented with acute on chronic renal
   failure and developed encephalopathy, fevers, hypoxemia.  At this
   point, there is no pertinent culture data; though her most recent CXR
   is more concerning for a developing PNA (possible aspiration event
   post-MRI and being supine yesterday).
   1.  Septicemia/ID:  Increased WBC, broad spectrum antibiotics.  CSF
   negative for bacterial meningitis.
   - Will discontinue ampicillin and ceftriaxone given CSF.  Will continue
   acyclovir awaiting HSV pcr.  Cefepime/vancomycin for possible HCAP.
   - Send influenza DFA from nares. Now growing GPC in blood. Got
   pneumovax [**12/2166**]
   - Repeat cultures today; await return of other serologies.
   - Skin inspection
   2.  Neuro:  Suspect infectious etiology and encephalopathy, less likely
   CNS infection. TSH normal.
   - EEG
   - f/u MRI read, prelim read negative but limited study
   3. R LE ischemia:  stable/improving; on heparin drip.
   - hypercoag panel
   4. CV:  h/o CAD
   - now has NGT; ASA/plavix
   5.  Hypoxemia:  suspect PNA versus volume
   - check LENIs - negative
   - PNA treatment as above
   - suspect can continue to wean FiO2 based on SpO2
   - consider TTE with bubble
   ICU Care
   Nutrition: Start enteral feeds
   Glycemic Control:  Insulin sliding scale; blood sugar 150-200
   currently.
   Lines:
   Dialysis Catheter - [**2167-10-29**] 12:00 PM
   18 Gauge - [**2167-10-29**] 06:10 PM
   20 Gauge - [**2167-10-29**] 06:11 PM
   Prophylaxis:
   DVT: heparin drip
   Stress ulcer:  PPI
   VAP: Not intubated
   Comments:
   Communication:  Will update family
   Code status:  Full code
   Disposition : If oxygenation improves ; will transfer to floor
   Total time spent:  35minutes CCT

2167-11-01 07:47:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 FEVER - 101.3
F - [**2167-10-31**] 08:00 AM
   1/2 bottles on [**10-30**] positive for GPCs, continued on vanco
   Febrile to 101.3, ? RLL opacity, on vanc/cefepime for HAP
   EEG done, read pending
   MRI final with only ? old chronic blood, nothing acute
   Ordered TTE with bubble study for ? PFO with shunt
   LENIS negative, low likelihood of PE
   Got 3rd Session of HD, vanc given post HD
   Flu swab done for ?atypical flu, some epistaxis, started on Afrin
   Allergies:
   Codeine
   Nausea/Vomiting
   Phenergan (Oral) (Promethazine Hcl)
   hallucinations;
   Tylenol (Oral) (Dm Hb/Pseudoephed/Acetamin/Cp)
   Unknown;
   Quinolones
   Unknown;
   Oxycodone
   Unknown;
   Enalapril
   Unknown;
   Last dose of Antibiotics:
   Ampicillin - [**2167-10-30**] 02:09 PM
   Vancomycin - [**2167-10-30**] 02:10 PM
   Ceftriaxone - [**2167-10-30**] 05:10 PM
   Piperacillin/Tazobactam (Zosyn) - [**2167-10-31**] 06:46 AM
   Cefipime - [**2167-10-31**] 01:00 PM
   Acyclovir - [**2167-10-31**] 04:00 PM
   Infusions:
   Heparin Sodium - 800 units/hour
   Other ICU medications:
   Lansoprazole (Prevacid) - [**2167-10-31**] 08:00 AM
   Heparin Sodium - [**2167-11-1**] 05:52 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2167-11-1**] 07:38 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.5
C (101.3
   Tcurrent: 36.4
C (97.6
   HR: 77 (63 - 83) bpm
   BP: 119/24(48) {105/24(46) - 159/141(123)} mmHg
   RR: 32 (14 - 34) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 63 Inch
             Total In:
                                                                  1,607 mL
                                                                    526 mL
   PO:
             TF:
                                                                    300 mL
                                                                    227 mL
   IVF:
                                                                    857 mL
                                                                    149 mL
   Blood products:
   Total out:
                                                                    410 mL
                                                                     20 mL
   Urine:
                                                                    410 mL
                                                                     20 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,197 mL
                                                                    506 mL
   Respiratory support
   O2 Delivery Device: Aerosol-cool
   SpO2: 100%
   ABG: ///34/
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   133 K/uL
   6.5 g/dL
   314 mg/dL
   1.8 mg/dL
   34 mEq/L
   3.4 mEq/L
   29 mg/dL
   101 mEq/L
   144 mEq/L
   21.3 %
   13.6 K/uL
        [image002.jpg]
                             [**2167-10-29**]  01:27 AM
                             [**2167-10-29**]  06:30 PM
                             [**2167-10-30**]  02:44 AM
                             [**2167-10-30**]  05:54 AM
                             [**2167-10-30**]  02:50 PM
                             [**2167-10-31**]  03:12 AM
                             [**2167-10-31**]  03:35 AM
                             [**2167-10-31**]  07:21 PM
                             [**2167-11-1**]  03:50 AM
   WBC
   10.9
   12.0
   16.0
   15.6
   13.6
   Hct
   25.5
   24.4
   24.1
   24.8
   25.9
   23.6
   21.3
   Plt
   186
   171
   166
   142
   133
   Cr
   3.6
   2.2
   2.0
   1.8
   TropT
   0.06
   0.17
   TCO2
   21
   29
   Glucose
   122
   160
   206
   314
   Other labs: PT / PTT / INR:17.5/36.4/1.6, CK / CKMB /
   Troponin-T:64/6/0.17, ALT / AST:[**10-10**], Alk Phos / T Bili:71/2.3,
   Differential-Neuts:92.5 %, Band:0.0 %, Lymph:2.9 %, Mono:4.4 %, Eos:0.1
   %, Lactic Acid:1.4 mmol/L, Albumin:3.4 g/dL, LDH:204 IU/L, Ca++:8.1
   mg/dL, Mg++:1.8 mg/dL, PO4:1.9 mg/dL
   Imaging: LENIs: No deep venous thrombosis within bilateral lower
   extremity veins.
   MRI: No acute infarct, mass effect or hydrocephalus. Study limited by
   motion. Linear focus of low signal on susceptibility, T2 and diffusion
   images
   in the right frontal lobe could be due to artifact or chronic blood
   products.
   A followup MRI study could help further assessment. This abnormality,
   if not
   an artifact, is likely to represent a chronic finding.
   Microbiology: [**10-30**] blood culture: GPC in clusters ([**12-29**]) others NGTD
   Flu (-)
   Assessment and Plan
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**])
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 DIABETES MELLITUS (DM), TYPE II
 DECUBITUS ULCER (PRESENT AT ADMISSION)
 PERIPHERAL VASCULAR DISEASE (PVD) WITH CRITICAL LIMB ISCHEMIA
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 CORONARY ARTERY DISEASE (CAD, ISCHEMIC HEART DISEASE)
   66 year old woman with multiple co-morbidities, including chronic
   kidney disease s/p deceased donor renal transplant ([**2160**]) currently on
   immunosuppression, coronary artery disease s/p myocardial
   infarction/stents, paroxysmal atrial fibrillation, insulin-dependent
   diabetes and diastolic congestive heart failure transferred to [**Hospital1 19**]
   from OSH for management of acutely worsening renal failure and
   decompensated diastolic congestive heart failure
   .
   # Hypoxia: Possible RLL pneumonia.  Has not improved with HD mild fluid
   removal.  LOS up 1L.
   - Consider TTE with bubble study
   - CT torso without IV contrast
   - Vanc/cefepime for possible PNA
   - sputum culture if productive sputum
   - hypercoag w/u with APLAb
   # Altered mental status: Likely related to worsening uremia as it is
   temporally related. No signs of infection. No focal neurologic signs
   but has been supratherapeutic in heparin. Not hypercarbic.  Other
   considerations are PRES, encephalitis, TTT/HUS although all less
   likely.  CT Head negative for any acute process.  LFTs not elevated. LP
   and MRI unrevealing. TSH normal enough. Flu negative
   - EEG with non-specific findings.  Consulted neuro and started 24 hour
   monitoring.
   - follow blood cultures
   - F/u LP studies including HSV PCR
   - f/u EEG
   - empiric HSV encephalitis coverage with acyclovir
   - hold narcotics
   .
   # Acute right foot ischemia: Stable but cool with minimal pulses in
   LLE. Unable to complete procedure today.
   -Con't Heparin gtt
   -Vascular to re-eval post HD
   #. Acute on chronic renal failure: Etiology unclear. Urine lytes
   suggestive of pre-renal etiology. BUN/Creatinine and potassium levels
   concerning for worsening renal function. Renal ultrasound with dopplers
   was normal at OSH.
   - Likely renal biopsy at some point
   - Con
t Tacro based on levels (dosing SL) and cellcept IV
   -Check EBV, CMV, BK
   #. Recent myocardial infarcation w/ stent placement: Stable. Will
   continue ASA 81 and Plavix given recent stent placement (DES in [**Month (only) **]).
   - Con't ASA and Plavix via NGT
   #. Lower extremity ulcers: Stable
   - Wound care consult
   #. Paroxysmal atrial fibrillation: Currently in sinus rhythm. Continue
   rate control. Holding on home coumadin and heparin gtt started at OSH
   for likely renal biopsy sometime
   #. Insulin-dependent diabetes mellitus: Stable, continue home insulin
   sliding scale.
   - Will continue gabapentin for now for significant peripheral
   neuropathy
   # Hypothyroidism: Stable. Continue home Levothyroxine replacement
   #. Hypercholesterolemia/hypertension/peripheral vascular disease:
   Stable, continue home Coreg, Hydralazine, Imdur ER, Zocor (Vytorin)
   #. Gout: Stable, no acute flare currently. Will hold Colchicine for now
   given decreased renal function.
   #. GERD: Stable. Continue home pantoprazole for now.
   ICU Care
   Nutrition:
   Nutren 2.0 (Full) - [**2167-10-31**] 12:00 PM 30 mL/hour
   Glycemic Control:
   Lines:
   Dialysis Catheter - [**2167-10-29**] 12:00 PM
   20 Gauge - [**2167-10-31**] 06:00 PM
   Prophylaxis:
   DVT: heparin gtt
   Stress ulcer:
   VAP:
   Bowel regimen Senna/Colace and lactulose
   Communication:  Comments: Husband

2167-11-01 11:12:00 Physician Attending Progress Note
CC: altered mental status
   I saw and examined the patient, and was physically present with the ICU
   resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.  PMH, SH, FH and ROS are
   unchanged from admission except where noted above.
   HPI:
   66yoF s/p renal transplant; admitted with renal failure; now with AMS
   and bacteremia.
   24 Hour Events:
   +blood cultures yesteday.
   LENIs negative
   HD yesterday
   Allergies:
   Codeine
   Nausea/Vomiting
   Phenergan (Oral) (Promethazine Hcl)
   hallucinations;
   Tylenol (Oral) (Dm Hb/Pseudoephed/Acetamin/Cp)
   Unknown;
   Quinolones
   Unknown;
   Oxycodone
   Unknown;
   Enalapril
   Unknown;
   Last dose of Antibiotics:
   Vancomycin - [**2167-10-30**] 02:10 PM
   Cefipime - [**2167-10-31**] 01:00 PM
   Acyclovir - [**2167-10-31**] 04:00 PM
   Infusions:
   Heparin Sodium - 800 units/hour
   Other ICU medications:
   Heparin Sodium - [**2167-11-1**] 05:52 AM
   Lansoprazole (Prevacid) - [**2167-11-1**] 08:00 AM
   Lactulose
   Epo
   Labetalol
   Zetia
   Simvastatin
   Prednisone 5mg
   Synthroid
   Hydralazine
   Iron
   Insulin sliding scale
   Plavix
   ASA
   Cellcept
   Tacrolimus
   Colace
   Changes to medical and family history:
   None
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   None
   Flowsheet Data as of  [**2167-11-1**] 10:55 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.4
C (101.1
   Tcurrent: 38.4
C (101.1
   HR: 73 (63 - 83) bpm
   BP: 126/46(66) {90/24(46) - 145/83(91)} mmHg
   RR: 32 (19 - 34) insp/min
   SpO2: 94%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 63 Inch
             Total In:
                                                                  1,607 mL
                                                                    827 mL
   PO:
             TF:
                                                                    300 mL
                                                                    328 mL
   IVF:
                                                                    857 mL
                                                                    259 mL
   Blood products:
   Total out:
                                                                    410 mL
                                                                     30 mL
   Urine:
                                                                    410 mL
                                                                     30 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,197 mL
                                                                    797 mL
   Respiratory support
   O2 Delivery Device: Aerosol-cool
   SpO2: 94%
   ABG: ///34/
   Physical Examination
   Gen: overweight, no distress
   HEENT: PERRL, moist mucosa
   Chest: Clear lungs
   CV: RRR
   Abd: s/nt/nd
   Ext: minimal edema
   Skin: warm, no rashes
   Neuro: moves all extremities, purposeful. Somnolent, but awakens to
   voice. Does not follow commands. Said
fine
 when asked
how are you.
   Psych: not agitated, calm.
   Labs / Radiology
   6.5 g/dL
   133 K/uL
   314 mg/dL
   1.8 mg/dL
   34 mEq/L
   3.4 mEq/L
   29 mg/dL
   101 mEq/L
   144 mEq/L
   21.3 %
   13.6 K/uL
        [image002.jpg]
                             [**2167-10-29**]  01:27 AM
                             [**2167-10-29**]  06:30 PM
                             [**2167-10-30**]  02:44 AM
                             [**2167-10-30**]  05:54 AM
                             [**2167-10-30**]  02:50 PM
                             [**2167-10-31**]  03:12 AM
                             [**2167-10-31**]  03:35 AM
                             [**2167-10-31**]  07:21 PM
                             [**2167-11-1**]  03:50 AM
   WBC
   10.9
   12.0
   16.0
   15.6
   13.6
   Hct
   25.5
   24.4
   24.1
   24.8
   25.9
   23.6
   21.3
   Plt
   186
   171
   166
   142
   133
   Cr
   3.6
   2.2
   2.0
   1.8
   TropT
   0.06
   0.17
   TCO2
   21
   29
   Glucose
   122
   160
   206
   314
   Other labs: PT / PTT / INR:17.5/36.4/1.6, CK / CKMB /
   Troponin-T:64/6/0.17, ALT / AST:[**10-10**], Alk Phos / T Bili:71/2.3,
   Differential-Neuts:92.5 %, Band:0.0 %, Lymph:2.9 %, Mono:4.4 %, Eos:0.1
   %, Lactic Acid:1.4 mmol/L, Albumin:3.4 g/dL, LDH:204 IU/L, Ca++:8.1
   mg/dL, Mg++:1.8 mg/dL, PO4:1.9 mg/dL
   Micro: [**10-30**] ([**12-29**]) + GPC in clusters
   Flu negative
   EEG: triphasic waves, unclear etiology.
   Assessment and Plan
   66yoF with ESRD with renal failure and altered mental status.
   1. Hypoxemia:  Possible RLL PNA; though CXR today is cleared and exam
   improved suggesting possible aspiration event yesterday.  Also possible
   component of volume overload; overall improving.
   - Downtitrate her FiO2 today if possible
   - HD yesterday
   2. ID: fevers/WBC; bacteremia with GPCs in clusters without clear
   source.  Potentially PNA, though initial CXR clear and was not
   remarkably hypoxemic initially.  LP negative for infectious process.
   - chest and abd CT (non IV-contrast)
   - continue cefipime, vancomycin; f/u cultures
   - Acyclovir pending HSV PCR (in setting that bld cultures could be
   contaminant)
   3. Neuro:  Likely infectious etiology.
   - Continue to treat broadly for potential infections.  Other evaluation
   negative.
   - Will d/w Neuro regarding EEG findings.
   ICU Care
   Nutrition:  Nutren 2.0 (Full) - [**2167-10-31**] 12:00 PM 30 mL/hour
   Glycemic Control:  Uptitrate Insulin sliding scale given elevated
   glucose
   Lines:
   Dialysis Catheter - [**2167-10-29**] 12:00 PM
   20 Gauge - [**2167-10-31**] 06:00 PM
   Prophylaxis:
   DVT: heparin therapeutic
   Stress ulcer:  PPI
   VAP:  Not intubated
   Communication:  Will update family today
   Code status:  Full code
   Disposition : Possible transfer to floor today if able to wean FiO2

2167-11-02 07:40:00 Physician Resident Progress Note
TITLE:
   Chief Complaint: Altered mental status
   24 Hour Events:
 FEVER - 101.1
F - [**2167-11-1**] 08:00 AM
   Neuro recommended 24 hour EEG monitoring to r/o seizure.  Will
   consult.  CT torso showed pneumonia.  FS in 400s, started insulin gtt.
   Now off.
   Allergies:
   Codeine
   Nausea/Vomiting
   Phenergan (Oral) (Promethazine Hcl)
   hallucinations;
   Tylenol (Oral) (Dm Hb/Pseudoephed/Acetamin/Cp)
   Unknown;
   Quinolones
   Unknown;
   Oxycodone
   Unknown;
   Enalapril
   Unknown;
   Last dose of Antibiotics:
   Ampicillin - [**2167-10-30**] 02:09 PM
   Vancomycin - [**2167-10-30**] 02:10 PM
   Ceftriaxone - [**2167-10-30**] 05:10 PM
   Piperacillin/Tazobactam (Zosyn) - [**2167-10-31**] 06:46 AM
   Cefipime - [**2167-11-1**] 12:37 PM
   Acyclovir - [**2167-11-1**] 04:56 PM
   Infusions:
   Heparin Sodium - 950 units/hour
   Other ICU medications:
   Lansoprazole (Prevacid) - [**2167-11-1**] 08:00 AM
   Heparin Sodium - [**2167-11-1**] 02:32 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2167-11-2**] 07:40 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.4
C (101.1
   Tcurrent: 37.2
C (98.9
   HR: 61 (61 - 76) bpm
   BP: 109/38(56) {90/27(45) - 129/57(69)} mmHg
   RR: 26 (19 - 32) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 63 Inch
             Total In:
                                                                  1,804 mL
                                                                    522 mL
   PO:
             TF:
                                                                    571 mL
                                                                    222 mL
   IVF:
                                                                    803 mL
                                                                    100 mL
   Blood products:
   Total out:
                                                                     82 mL
                                                                     63 mL
   Urine:
                                                                     82 mL
                                                                     63 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,722 mL
                                                                    459 mL
   Respiratory support
   O2 Delivery Device: Aerosol-cool
   SpO2: 97%
   ABG: ///30/
   Physical Examination
   General Appearance: Overweight / Obese
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, NG tube
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Resonant : ),
   (Breath Sounds: Diminished: rll, Rhonchorous: rll)
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right lower extremity edema: Trace, Left lower extremity
   edema: Trace, No(t) Cyanosis, No(t) Clubbing
   Skin:  Not assessed
   Neurologic: No(t) Attentive, Responds to: Verbal stimuli, Movement: Non
   -purposeful, Tone: Not assessed
   Labs / Radiology
   103 K/uL
   6.2 g/dL
   112 mg/dL
   3.0 mg/dL
   30 mEq/L
   3.9 mEq/L
   41 mg/dL
   97 mEq/L
   138 mEq/L
   19.9 %
   11.7 K/uL
        [image002.jpg]
                             [**2167-10-29**]  06:30 PM
                             [**2167-10-30**]  02:44 AM
                             [**2167-10-30**]  05:54 AM
                             [**2167-10-30**]  02:50 PM
                             [**2167-10-31**]  03:12 AM
                             [**2167-10-31**]  03:35 AM
                             [**2167-10-31**]  07:21 PM
                             [**2167-11-1**]  03:50 AM
                             [**2167-11-1**]  08:17 PM
                             [**2167-11-2**]  03:19 AM
   WBC
   12.0
   16.0
   15.6
   13.6
   11.7
   Hct
   24.4
   24.1
   24.8
   25.9
   23.6
   21.3
   20.8
   19.9
   Plt
   171
   166
   142
   133
   103
   Cr
   2.2
   2.0
   1.8
   3.0
   TropT
   0.17
   TCO2
   21
   29
   Glucose
   160
   206
   314
   112
   Other labs: PT / PTT / INR:16.3/54.7/1.4, CK / CKMB /
   Troponin-T:64/6/0.17, ALT / AST:[**10-10**], Alk Phos / T Bili:71/2.3,
   Differential-Neuts:92.5 %, Band:0.0 %, Lymph:2.9 %, Mono:4.4 %, Eos:0.1
   %, Lactic Acid:1.4 mmol/L, Albumin:3.4 g/dL, LDH:204 IU/L, Ca++:8.6
   mg/dL, Mg++:1.8 mg/dL, PO4:1.5 mg/dL
   Imaging: CT Torso:
   1. Chronic elevation of the right hemidiaphragm. Small right pleural
   effusion. Atelectasis of much of right lower lobe with findings
   concerning
   for superimposed RLL pneumonia.
   2. No intra-abdominal source for infection identified.
   3. Extensive atherosclerotic disease.
   Microbiology: Blood Culture, Routine (Preliminary): [**10-30**]
         STAPHYLOCOCCUS, COAGULASE NEGATIVE.    ISOLATED FROM ONE SET
   ONLY.
            SENSITIVITIES PERFORMED ON REQUEST..
   Blood cx 12/4/5/6 NGTD
   Assessment and Plan
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**])
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 DIABETES MELLITUS (DM), TYPE II
 DECUBITUS ULCER (PRESENT AT ADMISSION)
 PERIPHERAL VASCULAR DISEASE (PVD) WITH CRITICAL LIMB ISCHEMIA
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 CORONARY ARTERY DISEASE (CAD, ISCHEMIC HEART DISEASE)
   66 year old woman with multiple co-morbidities, including chronic
   kidney disease s/p deceased donor renal transplant ([**2160**]) currently on
   immunosuppression, coronary artery disease s/p myocardial
   infarction/stents, paroxysmal atrial fibrillation, insulin-dependent
   diabetes and diastolic congestive heart failure transferred to [**Hospital1 19**]
   from OSH for management of acutely worsening renal failure and
   decompensated diastolic congestive heart failure
   .
   # Hypoxia: Possible RLL pneumonia.  Has not improved with HD mild fluid
   removal.  LOS up 1L.
   -  TTE with bubble study
   - CT torso shows RLL pneumonia
   - Vanc/cefepime for possible PNA x8 days
   - sputum culture if productive sputum
   - hypercoag w/u with APLAb negative
   # Altered mental status: Likely related to worsening uremia as it is
   temporally related. No signs of infection. No focal neurologic signs
   but has been supratherapeutic in heparin. Not hypercarbic.  Other
   considerations are PRES, encephalitis, TTT/HUS although all less
   likely.  CT Head negative for any acute process.  LFTs not elevated. LP
   and MRI unrevealing. TSH normal enough. Flu negative
   - EEG with non-specific findings.  Consulted neuro and started 24 hour
   monitoring.
   - follow blood cultures
   - F/u LP studies including HSV PCR
   - f/u EEG
   - empiric HSV encephalitis coverage with acyclovir until HSV PCR neg
   - hold narcotics
   .
   # Anemia/Thrombocytopenia: Both down trending recently. Only occ.
   Schistocytes on smear but with both down trending, consider TTP/HUS.
   Anemia may be from nose bleed after flu swab.  Tacro can cause a low
   level TTP/HUS picture
   -Transfuse 1 unit for HCT<21
   -Consider Heme consult
   -Add on hemolysis labs, fibrinogen, repeat smear
   -GAS
   .
   # Acute right foot ischemia: Stable but cool with minimal pulses in
   LLE. Unable to complete procedure today.
   -Con't Heparin gtt
   -Vascular to re-eval post HD
   #. Acute on chronic renal failure: Etiology unclear. Urine lytes
   suggestive of pre-renal etiology. BUN/Creatinine and potassium levels
   concerning for worsening renal function. Renal ultrasound with dopplers
   was normal at OSH.  Worsening today with decreased UOP.
   -Check urine lytes
   - Likely renal biopsy at some point
   - Con
t prednisone and  cellcept IV
   -Hold tacro for now out of concern for possible Tacro toxicity as renal
   function worsened with increased levels.
   -Check EBV, CMV, BK
   #. Recent myocardial infarcation w/ stent placement: Stable. Will
   continue ASA 81 and Plavix given recent stent placement (DES in [**Month (only) **]).
   - Con't ASA and Plavix via NGT
   #. Lower extremity ulcers: Stable
   - Wound care consult
   #. Paroxysmal atrial fibrillation: Currently in sinus rhythm. Continue
   rate control. Holding on home coumadin and heparin gtt started at OSH
   for likely renal biopsy sometime
   #. Insulin-dependent diabetes mellitus: Stable, continue home insulin
   sliding scale.
   - Will continue gabapentin for now for significant peripheral
   neuropathy
   # Hypothyroidism: Stable. Continue home Levothyroxine replacement
   #. Hypercholesterolemia/hypertension/peripheral vascular disease:
   Stable, continue home Coreg, Hydralazine, Imdur ER, Zocor (Vytorin)
   #. Gout: Stable, no acute flare currently. Will hold Colchicine for now
   given decreased renal function.
   #. GERD: Stable. Continue home pantoprazole for now.
   ICU Care
   Nutrition:
   Nutren 2.0 (Full) - [**2167-10-31**] 12:00 PM 30 mL/hour
   Glycemic Control:
   Lines:
   Dialysis Catheter - [**2167-10-29**] 12:00 PM
   20 Gauge - [**2167-10-31**] 06:00 PM
   Prophylaxis:
   DVT: heparin gtt
   Stress ulcer:
   VAP:
   Bowel regimen Senna/Colace and lactulose
   Communication:  Comments: Husband
   ICU [**Name (NI) 81**]
   Nutrition:
   Nutren 2.0 (Full) - [**2167-11-1**] 06:58 PM 30 mL/hour
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Dialysis Catheter - [**2167-10-29**] 12:00 PM
   20 Gauge - [**2167-10-31**] 06:00 PM
   Prophylaxis:
   DVT: (Systemic anticoagulation: Heparin gtt)
   Stress ulcer:
   VAP:
   Comments:
   Communication: ICU consent signed Comments:
   Code status: Full code
   Disposition:

2167-11-02 10:01:00 Physician Attending Progress Note
Chief Complaint: Encephalopathy
   HPI:
    66yoF with h/o renal transplant, admitted with renal failure and AMS.
   Developed hypoxemia, fevers, and chest CT with PNA.
   24 Hour Events:
   Febrile yesterday morning to 101.
   Seen by neurology who suggested a 24h EEG.
   Chest CT with RLL PNA.
   Transiently required insulin drip for hyperglycemia.
   Allergies:
   Codeine
   Nausea/Vomiting
   Phenergan (Oral) (Promethazine Hcl)
   hallucinations;
   Tylenol (Oral) (Dm Hb/Pseudoephed/Acetamin/Cp)
   Unknown;
   Quinolones
   Unknown;
   Oxycodone
   Unknown;
   Enalapril
   Unknown;
   Last dose of Antibiotics:
   Vancomycin - [**2167-10-30**] 02:10 PM
   Cefipime - [**2167-11-1**] 12:37 PM
   Acyclovir - [**2167-11-1**] 04:56 PM
   Infusions:
   Heparin Sodium - 950 units/hour
   Medications:
   Plavix
   Synthroid
   ASA
   Prednisone
   Cellcept
   Hydralazine
   Tacrolimus
   Colace
   Vitamin
   Epogen
   Changes to medical and family history:
   None
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   None
   Flowsheet Data as of  [**2167-11-2**] 09:48 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (98.9
   Tcurrent: 37.1
C (98.8
   HR: 65 (61 - 75) bpm
   BP: 110/37(56) {91/27(45) - 129/57(69)} mmHg
   RR: 22 (19 - 32) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 63 Inch
             Total In:
                                                                  1,804 mL
                                                                    616 mL
   PO:
             TF:
                                                                    571 mL
                                                                    294 mL
   IVF:
                                                                    803 mL
                                                                    123 mL
   Blood products:
   Total out:
                                                                     82 mL
                                                                     63 mL
   Urine:
                                                                     82 mL
                                                                     63 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,722 mL
                                                                    553 mL
   Respiratory support
   O2 Delivery Device: 35% shovel mask
   SpO2: 99%
   ABG: ///30/
   Physical Examination
   Gen: More conversant, opens eyes to verbal stimuli. Following minimal
   commands.
   Chest: rhonchi on right
   CV: RRR
   Abd: s/nt/nd
   Ext: right foot warm
   Labs / Radiology
   6.2 g/dL
   103 K/uL
   112 mg/dL
   3.0 mg/dL
   30 mEq/L
   3.9 mEq/L
   41 mg/dL
   97 mEq/L
   138 mEq/L
   19.9 %
   11.7 K/uL
        [image002.jpg]
                             [**2167-10-29**]  06:30 PM
                             [**2167-10-30**]  02:44 AM
                             [**2167-10-30**]  05:54 AM
                             [**2167-10-30**]  02:50 PM
                             [**2167-10-31**]  03:12 AM
                             [**2167-10-31**]  03:35 AM
                             [**2167-10-31**]  07:21 PM
                             [**2167-11-1**]  03:50 AM
                             [**2167-11-1**]  08:17 PM
                             [**2167-11-2**]  03:19 AM
   WBC
   12.0
   16.0
   15.6
   13.6
   11.7
   Hct
   24.4
   24.1
   24.8
   25.9
   23.6
   21.3
   20.8
   19.9
   Plt
   171
   166
   142
   133
   103
   Cr
   2.2
   2.0
   1.8
   3.0
   TropT
   0.17
   TCO2
   21
   29
   Glucose
   160
   206
   314
   112
   Other labs: PT / PTT / INR:16.3/54.7/1.4, CK / CKMB /
   Troponin-T:64/6/0.17, ALT / AST:[**10-10**], Alk Phos / T Bili:71/1.2,
   Differential-Neuts:92.5 %, Band:0.0 %, Lymph:2.9 %, Mono:4.4 %, Eos:0.1
   %, Fibrinogen:643 mg/dL, Lactic Acid:1.4 mmol/L, Albumin:3.4 g/dL,
   LDH:279 IU/L, Ca++:8.6 mg/dL, Mg++:1.8 mg/dL, PO4:1.5 mg/dL
   Chest CT: RLL PNA with consolidation and small pleural effusion
   Micro:  [**10-30**]: one btl CNS
   CSF negative; HSV PCR pending
   Assessment and Plan
   66yoF s/p renal transplant, admitted with worsening renal failure and
   altered mental status.
   1.  ID:  Evidence of PNA, though not clear this was the primary source
   as it is possible she aspirated during her MRI.  WBC improving, remains
   intermittently febrile.
   - Continue vancomycin/cefipime for PNA
   - Continue acyclovir awaiting HSV PCR
   2.  Neuro:  Persistent encephalopathy.
   - Getting EEG today to evaluate for non-convulsive status
   - LP negative; await viral studies.
   - Neuro service following.
   3.  Anemia:  HCT decreasing; abd CT without evidence of RP bleed
   yesterday.  Does have R groin hematoma.
   - check hemolysis labs, smear for schistocytes
   - guaiac stool
   - Groin ultrasound for hematoma
   - Transfuse
   ICU Care
   Nutrition:  Nutren 2.0 (Full) - [**2167-11-1**] 06:58 PM 30 mL/hour
   Glycemic Control:  Insulin sliding scale
   Lines:
   Dialysis Catheter - [**2167-10-29**] 12:00 PM
   20 Gauge - [**2167-10-31**] 06:00 PM
   Prophylaxis:
   DVT:  heparin drip
   Stress ulcer:  PPI
   VAP:  Not intubated
   Communication:  Will update family
   Code status:   Full code
   Disposition : Transfer to floor
   Total time spent:  25 minutes